US07115611B2
B] [rac]-(4-{1-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butoxy}-2-methyl-phenoxy)-acetic acid
A solution of 150 mg (0.261 mmol) [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butoxy}-2-methyl-phenoxy)-acetic acid tert-butyl ester and 0.52 ml 1N lithium hydroxide solution in 1.5 ml THF were stirred at RT for 2 h. The solution was partitioned between ether, 1N HCl and water and the ether layer then concentrated under reduced pressure. The crude product was repeatedly concentrated in with ether until a foam of 121 mg pure [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butoxy}-2-methyl-phenoxy)-acetic acid was obtained.

reactant | [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butoxy}-2-methyl-phenoxy)-acetic acid tert-butyl ester | 0.261 mmol, 150 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1)OC(CCC)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)C)=O | C31H35F3N2O4
reactant | lithium hydroxide | 1N, 0.52 ml | [OH-].[Li+]
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | [rac]-(4-{1-[4-Cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-butoxy}-2-methyl-phenoxy)-acetic acid | C1(CC1)C1=NC(=NC=C1C(CCC)OC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C27H27F3N2O4
